US06469006B1
To a solution of KOH (13.04 g, 0.232 mol) in 14% H2O/EtOH (50 ml) was added 4-fluoro-7-cyanoindole (900 mg, 5.60 mmol). The resulting mixture was refluxed for 12 hours, slowly cooled to room temperature, and concentrated in vacuo to about 30 ml. The residue was acidified to pH 2 with HCl (˜5.5 N aq.). The precipitate was filtered, washed with excess of water, and dried under high vacuum to afford 4-fluoro-7-carboxyindole as a white solid (100% conversion). The material was used without further purification.

reactant | KOH | 0.232 mol, 13.04 g | [OH-].[K+]
reactant | 4-fluoro-7-cyanoindole | 5.60 mmol, 900 mg | FC1=C2C=CNC2=C(C=C1)C#N | C9H5FN2
reactant | H2O EtOH | 50 ml | O.CCO
product | 4-fluoro-7-carboxyindole | FC1=C2C=CNC2=C(C=C1)C(=O)O | C9H6FNO2
